US05455253
A suspension of 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H )-quinolone (3.39 g) in ethanol (20 ml) and water (20 ml) was treated with lithium hydroxide monohydrate (0.75 g). The mixture was heated at 90° C. for 1.5 hours, diluted with water, acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The combined organic extracts were washed (water and brine), dried, filtered, and evaporated to yield a foam which was purified by chromatography (ethyl acetate and ethyl acetate/methanol, 3:1) to afford 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone (2.67 g ) as a pale yellow foam; MS: m/z=381(m).

reactant | 3-carboethoxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H )-quinolone | 3.39 g | C(=O)(OCC)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)C#N)=O)(O)C(F)(F)F | C20H19F3N2O4
reactant | lithium hydroxide monohydrate | 0.75 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-carboxy-2-trifluoromethyl-2-hydroxy-4-(3-cyanophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.67 g | C(=O)(O)C1C(NC=2CCCC(C2C1C1=CC(=CC=C1)C#N)=O)(O)C(F)(F)F | C18H15F3N2O4
